US07585868B2
Synthesis of tert-butyl 5-(4-amino-1-cyclopentyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-1H-indole-1-carboxylate (BA88).
A solution of tert-butyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-1-carboxylate (130 mg, 0.38 mmol) in EtOH (3.3 ml) was added to a solution of 3-iodo-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (50 mg, 0.15 mmol) in DME (12 ml). Pd(PPh3)4 (30 mg, 0.03 mmol) and saturated Na2CO3 (1.9 ml) were added and the reaction was heated to 80° C. under an argon atmosphere overnight. After cooling, the reaction was extracted with saturated NaCl and CH2Cl2. Organic phases were combined, concentrated in vacuo and purified by RP-HPLC (MeCN:H2O) to yield BA88. ESI-MS (M+H)+ m/z calcd 419.2, found 419.1.

reactant | tert-butyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-1-carboxylate | 0.38 mmol, 130 mg | CC1(OB(OC1(C)C)C=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C)C | C19H26BNO4
reactant | 3-iodo-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.15 mmol, 50 mg | IC1=NN(C2=NC=NC(=C21)N)C(C)C | C8H10IN5
reactant | Na2CO3 | 1.9 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 3.3 ml | CCO | C2H6O
solvent | DME | 12 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.03 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 5-(4-amino-1-cyclopentyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-1H-indole-1-carboxylate | NC1=C2C(=NC=N1)N(N=C2C=2C=C1C=CN(C1=CC2)C(=O)OC(C)(C)C)C2CCCC2 | C23H26N6O2
